US07173135B2
3-cyano-6,7-dimethoxy-4-{4-[3-(1,1-dioxotetrahydro-4H-thiazin-4-yl)prop-1-ynyl]-2,3-methylenedioxyanilino}quinoline
N,N-Diisopropylamine (0.043 g) was added to a stirred mixture of 3-cyano-4-(4-iodo-2,3-methylenedioxyanilino)-6,7-dimethoxyquinoline (0.2 g), 4-(2-propynyl)-1,1-dioxotetrahydro-4H-thiazine (0.145 g), bis(triphenylphosphine)palladium(II) dichloride (0.071 g), cuprous iodide (0.024 g) and ethyl acetate (10 ml) that had been cooled to −20° C. The resultant mixture was allowed to warm to ambient temperature and was stirred for 16 hours. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous sodium bicarbonate solution. The organic layer was washed with water and with a saturated brine solution, dried over magnesium sulphate and evaporated. The residue was triturated under a mixture of acetonitrile and water. The resultant solid was isolated and dried. There was thus obtained the title compound as a solid (0.05 g); NMR Spectrum: (DMSOd6) 2.97–3.04 (m, 4H), 3.12–3.18 (m, 4H), 3.72 (s, 2H), 3.83 (s, 3), 3.85 (s, 3H), 6.04 (s, 2H), 6.82 (d, 1H), 6.95 (d, 1H), 7.31 (s, 1H), 7.74 (s, 1H), 8.48 (s, 1H), 9.6 (s, 1H); Mass Spectrum: M+H+ 521.

reactant | N,N-Diisopropylamine | 0.043 g | C(C)(C)NC(C)C | C6H15N
reactant | 3-cyano-4-(4-iodo-2,3-methylenedioxyanilino)-6,7-dimethoxyquinoline | 0.2 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)I)OCO2)OC)OC | C19H14IN3O4
reactant | 4-(2-propynyl)-1,1-dioxotetrahydro-4H-thiazine | 0.145 g | C(C#C)C1CNS(CC1)(=O)=O | C7H11NO2S
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.071 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-cyano-6,7-dimethoxy-4-{4-[3-(1,1-dioxotetrahydro-4H-thiazin-4-yl)prop-1-ynyl]-2,3-methylenedioxyanilino}quinoline | 0.05 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)C#CCC1CNS(CC1)(=O)=O)OCO2)OC)OC | C26H24N4O6S
